US06777407B2
C. 2-(2,3,3a,8b-Tetrahydrocyclopenta[b]Indol-4(1H)-yl)Acetamide
To a stirred solution of 1,2,3,3a,4,8b-hexahydrocyclopenta[b]indole (130 mmol, 21 g) in DMF (50 mL) was added diisopropylethylamine (400 mmol, 70 mL) followed by 2-chloroacetamide (270 mmol, 25 g). The reaction mixture was heated to 100° C. for 18 h. The reaction was concentrated and the diluted with ethyl acetate and water. The phases were separated and the organic phase was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by flash column chromatography through silica gel (elution with 60% ethyl acetate-hexanes) to afford a yellow solid (90 mmol, 20 g, 69%).

reactant | 1,2,3,3a,4,8b-hexahydrocyclopenta[b]indole | 130 mmol, 21 g | C1CCC2NC=3C=CC=CC3C21 | C11H13N
reactant | diisopropylethylamine | 400 mmol, 70 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloroacetamide | 270 mmol, 25 g | ClCC(=O)N | C2H4ClNO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(2,3,3a,8b-Tetrahydrocyclopenta[b]Indol-4(1H)-yl)Acetamide | 90 mmol, 20 g, 69% | C1CCC2N(C=3C=CC=CC3C21)CC(=O)N | C13H16N2O
